US07582625B2
1.23b)(R)-2-[4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 45 mg (0.06 mmol) (R)-1-(4-benzyloxy-3,5-dimethyl-benzyl)-2-[4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 10 mL MeOH was combined with 10 mg 10% Pd/C and hydrogenated at RT and 3 bar hydrogen pressure until the reaction came to an end. The catalyst was removed by suction filtering and the residue was purified by HPLC. The fractions containing the product were combined and lyophilised.

reactant | (R)-1-(4-benzyloxy-3,5-dimethyl-benzyl)-2-[4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-piperazin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.06 mmol, 45 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCS(CC1)(=O)=O)CC1=CC(=C(C(=C1)C)OCC1=CC=CC=C1)C)C=CC=C2 | C42H53N5O7S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 10 mg | [Pd] | Pd
product | (R)-2-[4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-piperazin-1-yl]-1-(4-hydroxy-3,5-dimethyl-benzyl)-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCN(CC1)C1CCS(CC1)(=O)=O)CC1=CC(=C(C(=C1)C)O)C)C=CC=C2 | C35H47N5O7S
